US05880140
Step C: 2-(Pyrid-2-yl)-5-hydroxymethyl-pyridine
To a solution of 2-(pyrid-2-yl)-5-pyridine carboxylic acid (0.320 g, 1.60 mmol) in THF (5 mL) at 0° C. is added 1.0M lithium aluminum hydride in diethyl ether (1.60 mL, 1.60 mmol) over 10 minutes. The reaction is allowed to stir at ambient temperature for 3 hours, cooled to 0° C., and water (0.10 mL), 4N aq. NaOH (0.10 mL), and water (0.30 mL) are added sequentially. The reaction is filtered through a pad of Celite and the filtrate is evaporated in vacuo. The residue is purified by chromatography to afford the title compound.

reactant | 2-(pyrid-2-yl)-5-pyridine carboxylic acid | 1.60 mmol, 0.320 g | N1=C(C=CC=C1)C1=NC=C(C=C1)C(=O)O | C11H8N2O2
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | 1.60 mmol, 1.60 mL | C(C)OCC | C4H10O
reactant | NaOH | 4N, 0.10 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 0.30 mL | O | H2O
solvent | water | 0.10 mL | O | H2O
product | 2-(Pyrid-2-yl)-5-hydroxymethyl-pyridine | N1=C(C=CC=C1)C1=NC=C(C=C1)CO | C11H10N2O
